2152-12-07 11:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, s/p laparatomy for perforated
   bowel.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had been transferred from [**Hospital 1115**] hospital following ERCP. Had
   apneic episodes during that procedure, ?respiratory arrest. Transferred
   to [**Hospital1 5**]. Repeat ERCP with intubation. Sustained an intestinal
   perforation and was taken to surgery.
   Admitted to MICU post-op. Overnight, had episodic hypotension treeated
   with fluids. Urine output sustained with volume resuscitation.
   Afebrile.
   Sustained on vent overnight. RSBI 48 this AM.
   24 Hour Events:
 MULTI LUMEN - START [**2152-12-6**] 09:47 PM
 EKG - At [**2152-12-6**] 10:22 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2152-12-7**] 05:43 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-12-6**] 11:37 PM
   Other medications:
   Changes to medical and family history:
   Metatstatic breast CA - mets to bone and liver.
   No known lung disease.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Jaundice
   Flowsheet Data as of  [**2152-12-7**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 78 (57 - 84) bpm
   BP: 108/37(55) {70/36(45) - 132/77(80)} mmHg
   RR: 13 (10 - 17) insp/min
   SpO2: 100%
   Height: 59 Inch
   CVP: 2 (2 - 11)mmHg
   Total In:
                                                                  1,419 mL
                                                                  3,808 mL
   PO:
   TF:
   IVF:
                                                                  1,419 mL
                                                                  3,808 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    580 mL
   Urine:
                                                                    720 mL
                                                                    485 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
                                                                     80 mL
                                                                     70 mL
   Balance:
                                                                    219 mL
                                                                  3,228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 473 (415 - 473) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 10 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.36/34/142/22/-5
   Ve: 6.4 L/min
   PaO2 / FiO2: 284
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) OG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Diffusely, No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): Unable to assess - patient intubated,
   Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   9.9 g/dL
   305 K/uL
   135 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   6 mg/dL
   106 mEq/L
   137 mEq/L
   30.6 %
   13.7 K/uL
        [image002.jpg]
                            [**2152-12-6**]  06:26 PM
                            [**2152-12-6**]  07:15 PM
                            [**2152-12-6**]  07:21 PM
                            [**2152-12-6**]  09:37 PM
                            [**2152-12-7**]  02:54 AM
                            [**2152-12-7**]  06:53 AM
                            [**2152-12-7**]  07:48 AM
                            [**2152-12-7**]  08:09 AM
   WBC
   11.8
   13.7
   Hct
   35
   30
   34.9
   31.2
   30.6
   Plt
   [**Telephone/Fax (3) 2612**]
   Cr
   0.6
   0.6
   TCO2
   22
   20
   Glucose
   147
   170
   153
   135
   Other labs: PT / PTT / INR:13.2/29.1/1.1, ALT / AST:146/133, Alk Phos /
   T Bili:331/9.8, Amylase / Lipase:43/44, Differential-Neuts:89.1 %,
   Lymph:6.4 %, Mono:4.0 %, Eos:0.2 %, Lactic Acid:1.9 mmol/L, Albumin:2.4
   g/dL, Ca++:7.3 mg/dL, Mg++:2.7 mg/dL, PO4:3.0 mg/dL
   Imaging: CT scan preop- bilateral pleural effusions with basilar
   atelectasis.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ANEMIA SECONDARY TO BLOOD LOSS
   METASTATIC BREAST CANCER
   Patient's hemodynamics stable with volume resuscitation. Gas exchange
   has been good on ventilator. Excellent ventilation and oxygenation on
   PSV 5/5. During rounds I took off the PSV; there was no change in tidal
   volume, ventilation or respiratory rate. Patient ready for extubation.
   Initial episode of respiratory failure most likely related to sedation.
   Hct stable.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-12-6**] 09:47 PM
   20 Gauge - [**2152-12-6**] 09:49 PM
   18 Gauge - [**2152-12-6**] 09:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2152-12-07 13:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2152-12-6**] 09:47 PM
 EKG - At [**2152-12-6**] 10:22 PM
   Required 3L NS boluses for hypotension and low UOP
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2152-12-7**] 12:00 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-12-6**] 11:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-12-7**] 01:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 80 (57 - 88) bpm
   BP: 103/36(53) {70/36(45) - 132/77(80)} mmHg
   RR: 13 (10 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 10 (2 - 11)mmHg
   Total In:
                                                                  1,419 mL
                                                                  4,696 mL
   PO:
   TF:
   IVF:
                                                                  1,419 mL
                                                                  4,696 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    780 mL
   Urine:
                                                                    720 mL
                                                                    505 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
                                                                     80 mL
                                                                    250 mL
   Balance:
                                                                    219 mL
                                                                  3,916 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 486 (415 - 486) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 10 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.36/34/142/22/-5
   Ve: 5 L/min
   PaO2 / FiO2: 284
   Physical Examination
   GEN: Thin, Jaundice, Temporal Wasting
   HEENT:  PERRL, Mildly icteric, Dry MMM,
   NECK: No JVD, RIJ in place.
   COR: RRR, no M/G/R, normal S1 S2
   PULM: Lungs Clear Anteriorly
   ABD: Soft, Ventral Vertical Dressing C/D/I, JP in place. ND
   EXT: No C/C/E
   Labs / Radiology
   305 K/uL
   9.9 g/dL
   135 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   6 mg/dL
   106 mEq/L
   137 mEq/L
   30.6 %
   13.7 K/uL
        [image002.jpg]
                            [**2152-12-6**]  06:26 PM
                            [**2152-12-6**]  07:15 PM
                            [**2152-12-6**]  07:21 PM
                            [**2152-12-6**]  09:37 PM
                            [**2152-12-7**]  02:54 AM
                            [**2152-12-7**]  06:53 AM
                            [**2152-12-7**]  07:48 AM
                            [**2152-12-7**]  08:09 AM
   WBC
   11.8
   13.7
   Hct
   35
   30
   34.9
   31.2
   30.6
   Plt
   [**Telephone/Fax (3) 2612**]
   Cr
   0.6
   0.6
   TCO2
   22
   20
   Glucose
   147
   170
   153
   135
   Other labs: PT / PTT / INR:13.2/29.1/1.1, ALT / AST:146/133, Alk Phos /
   T Bili:331/9.8, Amylase / Lipase:43/44, Differential-Neuts:89.1 %,
   Lymph:6.4 %, Mono:4.0 %, Eos:0.2 %, Lactic Acid:1.9 mmol/L, Albumin:2.4
   g/dL, Ca++:7.3 mg/dL, Mg++:2.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   84F with a metastatic breast CA now s/p ERCP complicated by duodenal
   perforation and now POD#0 from Ex Lap and duodenal repair with
   Gastro-jejunotomy and Cholecystjejunotomy.
   .
   # S/P Bowel Perforation with retroperitoneal and intraperitoneal air:
   Etiology secondary to duodenal dilation in the setting of duodenal
   stricture secondary to metastatic disease. Pt now hemodynamically
   stable following Ex Lap with repair.
   - General Sugery Primary team
 will transfer to West SICU
   - Unasyn for prophylactic bowel flora infection.
   - f/u peritoneal fluid culture
   .
   # S/P Liver Bx Bleed: Pt noted to have bleeding during surgery
   secondary to Liver Met Biopsy.
   - Will monitor for signs of GI Bleed. Discussed with surgery and
   bleeding would like be from Cholecystjejunotomy loop of bowel since it
   is draining the gallbladder, liver.
   - Q4 Hct checks
   - Will push NS over LR in setting of hypotension and liver failure
   .
   # Respiratory Failure: Pt intubated for Ex Lap. Now on pressure support
   with RSBI of 40s.
   - Keep intubated for transfer
   - Daily RISB
   - Cont Propofol per surgery.
   .
   # FEN: NS at 100/hr / Replete Lytes PRN / NPO
   .
   # Access: RIJ TLC, Foley
   .
   # PPx: PPi, Pneumoboots
   .
   # Code: DNR
   .
   # Dispo: [**Hospital Unit Name 4**]
   .
   # Comm: [**Name (NI) **]: ([**Telephone/Fax (1) 2606**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-12-6**] 09:47 PM
   20 Gauge - [**2152-12-6**] 09:49 PM
   18 Gauge - [**2152-12-6**] 09:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2152-12-09 04:36:00 Physician Resident Progress Note
Chief Complaint: s/p duodenal perforation repair
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2152-12-8**] 02:20 PM
   extubated and doing well, hemodynamics stable, likely ok for floor
   today.
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 216**] Medical [**Name2 (NI) 2499**] Known
   Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2152-12-9**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-12-8**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2152-12-8**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Gastrointestinal: Abdominal pain, mild, improving
   Genitourinary: Foley
   Pain: [**1-26**] Minimal
   Pain location: abdomen, general
   Flowsheet Data as of  [**2152-12-9**] 04:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 84 (80 - 98) bpm
   BP: 143/52(75) {99/38(53) - 159/70(90)} mmHg
   RR: 13 (11 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.6 kg (admission): 46 kg
   Height: 59 Inch
    CVP: 3 (1 - 6)mmHg
   Total In:
                                                                  2,319 mL
                                                                    323 mL
   PO:
   TF:
   IVF:
                                                                  2,319 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    360 mL
   Urine:
                                                                  1,935 mL
                                                                    360 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
                                                                    260 mL
   Balance:
                                                                   -276 mL
                                                                    -36 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 437 (415 - 441) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: mild, wound c/d/i
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   298 K/uL
   8.6 g/dL
   103 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   11 mg/dL
   113 mEq/L
   143 mEq/L
   26.9 %
   11.2 K/uL
        [image002.jpg]
                            [**2152-12-6**]  07:21 PM
                            [**2152-12-6**]  09:37 PM
                            [**2152-12-7**]  02:54 AM
                            [**2152-12-7**]  06:53 AM
                            [**2152-12-7**]  07:48 AM
                            [**2152-12-7**]  08:09 AM
                            [**2152-12-7**]  05:00 PM
                            [**2152-12-7**]  05:15 PM
                            [**2152-12-8**]  01:43 AM
                            [**2152-12-9**]  02:29 AM
   WBC
   11.8
   13.7
   12.9
   12.0
   11.2
   Hct
   30
   34.9
   31.2
   30.6
   30.5
   27.1
   26.9
   Plt
   [**Telephone/Fax (3) 2661**]75
   298
   Cr
   0.6
   0.6
   0.9
   0.8
   0.7
   TCO2
   22
   20
   Glucose
   170
   153
   135
   149
   131
   120
   103
   Other labs: PT / PTT / INR:12.4/31.3/1.1, ALT / AST:81/48, Alk Phos / T
   Bili:289/5.5, Amylase / Lipase:43/44, Differential-Neuts:89.1 %,
   Lymph:6.4 %, Mono:4.0 %, Eos:0.2 %, Lactic Acid:1.9 mmol/L, Albumin:2.4
   g/dL, LDH:243 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ASSESSMENT AND PLAN: 84F w/painless jaundice s/p ERCP x2 complicated by
   duodenal perforation s/p exlap, repair of perforation w/gastrojej and
   cholecystojej
   NEUROLOGIC: A/Ox3, no sedation
   Pain: Fentanyl prn pain
   CARDIOVASCULAR: regular rate and rhythm, HR and BP stable
   PULMONARY: extubated, doing well
   GI / ABD: s/p exlap for perforation, incision c/d/i, abdomen currently
   benign
   NUTRITION: NPO, IVF
   RENAL: Cr 0.7, Adequate UOP
   HEMATOLOGY: Hct 26.9 (27)
   ENDOCRINE: RISS
   ID: Afebrile, WBC 11, on Unasyn
   LINES/TUBES/DRAINS: NGT, foley, [**Doctor Last Name **] drain, RIJ
   WOUNDS: Abdomen
   IMAGING:
   FLUIDS: D51/2NS+20K @50
   CONSULTS: Gen Surgery, GI
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS:
   DVT - SQH, Boots
   STRESS ULCER - Protonix [**Hospital1 **]
   VAP BUNDLE - Yes
   COMMUNICATIONS:
   ICU Consent: Will obtain
   CODE STATUS: Chemical code, no compressions
   DISPOSITION: floor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2152-12-6**] 09:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor